US07678815B2
2-Ethyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (6-methyl-pyridin-2-yl)-amide
The title compound, MS (ISP): m/e=340.3 (M+H+), was prepared as for example 153, steps A to G. Step C was performed using propionyl chloride, and yielded cyano-propionylamino-acetic acid ethyl ester, which was cyclized to 5-amino-2-ethyl-thiazole-4-carboxylic acid ethyl ester in step D. This was used in step E to generate 2-ethyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester, which was hydrolized to 2-ethyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid in step F. Coupling as described in step G generated the title compound.

reactant | 5-amino-2-ethyl-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1N)CC | C8H12N2O2S
reactant | 2-ethyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1NC=1C=NC=CC1)CC | C13H15N3O2S
reactant | 2-ethyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid | C(C)C=1SC(=C(N1)C(=O)O)NC=1C=NC=CC1 | C11H11N3O2S
product | 2-Ethyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (6-methyl-pyridin-2-yl)-amide | CC1=CC=CC(=N1)NC(=O)C=1N=C(SC1NC=1C=NC=CC1)CC | C17H17N5OS
